US07625908B2
N1-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N1,N2,N2-trimethylglycinamide
The procedure described in Example 1 was repeated using N,N-dimethylglycine and N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-amine (obtained as described for the R-antipode in Example 2.3, preparation of starting materials) to give the title compound in 27% yield; NMR spectrum (DMSO-d6) 1.37 (d, 3H), 2.06 (s, 6H), 3.08 (s, 3H), 3.23 (dd, 1H), 3.25 (s, 2H), 4.26 (dd, 1H), 5.10 (m, 1H), 5.29 (s, 2H), 7.23 (m, 2H), 7.30 (d, 1H), 7.35 (m, 1H), 7.56 (s, 1H), 7.68 (m, 2H), 7.87 (dt, 1H), 8.13 (d, 1H), 8.44 (s, 1H), 8.58 (d, 1H), 9.90 (s, 1H); Mass Spectrum MH+ 535.

reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CNC)C | C24H24ClN5O2
product | N1-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N1,N2,N2-trimethylglycinamide | 27% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CN(C(CN(C)C)=O)C)C | C28H31ClN6O3
